US09334267B2
N-(6-(5-(3-(3,3-Dimethylbutyl)ureido)-4-fluoro-2-methylphenyl)-7-methylpyrido[2,3-d]pyrimidin-2-yl)acetamide
Treat a cooled solution (0° C.) of 1-(5-(2-amino-7-methylpyrido[2,3-d]pyrimidin-6-yl)-2-fluoro-4-methylphenyl)-3-(3,3-dimethylbutyl)urea (0.167 g, 0.407 mmol) and catalytic dimethylaminopyridine (0.005 g, 0.041 mmol) in pyridine (4 mL) with acetic anhydride (0.269 ml, 2.85 mmol) and stir at RT overnight. Add saturated. Na2CO3 and MeOH and heat at 45° C. overnight. Treat the mixture with water, extract with 4:1 EtOAc/THF (3×), wash the combined organics with saturated. Na2CO3, then brine, dry over MgSO4, concentrate to dryness and purify via silica gel chromatography (15-100% EtOAc/Hexanes). Dissolve the resulting material in acetonitrile/H2O, freeze and lyophilize to afford the title compound as an off-white solid (55 mg, 30% yield). MS (m/z): 453.2 (M+1).

reactant | 1-(5-(2-amino-7-methylpyrido[2,3-d]pyrimidin-6-yl)-2-fluoro-4-methylphenyl)-3-(3,3-dimethylbutyl)urea | 0.407 mmol, 0.167 g | NC=1N=CC2=C(N1)N=C(C(=C2)C=2C(=CC(=C(C2)NC(=O)NCCC(C)(C)C)F)C)C | C22H27FN6O
reactant | dimethylaminopyridine | 0.041 mmol, 0.005 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 2.85 mmol, 0.269 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
product | N-(6-(5-(3-(3,3-Dimethylbutyl)ureido)-4-fluoro-2-methylphenyl)-7-methylpyrido[2,3-d]pyrimidin-2-yl)acetamide | 55 mg, 30% yield | CC(CCNC(NC=1C(=CC(=C(C1)C1=CC2=C(N=C(N=C2)NC(C)=O)N=C1C)C)F)=O)(C)C | C24H29FN6O2
